US09227951B2
Step 5: methyl 2-(1-(tert-butoxycarbonylamino)ethyl)thiazole-5-carboxylate
To a solution of 2-(1-(tert-butoxycarbonylamino)ethyl)thiazole-5-carboxylic acid (1.03 g, 3.8 mmol) in a mixture of MeOH (20 mL) and toluene (20 mL) cooled to 0° C. was added dropwise 2.0M trimethylsilyldiazomethane in ether (12 mL, 24 mmol). The resulting reaction mixture was warmed to room temperature overnight. Excess trimethylsilyldiazomethane was quenched with the addition of acetic acid and the solution concentrated to dryness. The residue was partitioned between EtOAc and saturated aqueous NaHCO3, the organic layer dried over anhydrous Mg2SO4 and concentrated to afford a yellow oil (0.90 g, 83%). LC-MS: (FA) ES+ 287.

reactant | 2-(1-(tert-butoxycarbonylamino)ethyl)thiazole-5-carboxylic acid | 3.8 mmol, 1.03 g | C(C)(C)(C)OC(=O)NC(C)C=1SC(=CN1)C(=O)O | C11H16N2O4S
reactant | trimethylsilyldiazomethane | 2.0M | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
reactant | ether | 24 mmol, 12 mL | CCOCC | C4H10O
solvent | MeOH | 20 mL | CO | CH4O
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | methyl 2-(1-(tert-butoxycarbonylamino)ethyl)thiazole-5-carboxylate | 0.90 g, 83% | C(C)(C)(C)OC(=O)NC(C)C=1SC(=CN1)C(=O)OC | C12H18N2O4S
